US05468748
9-Hydroxyimino-9H-indeno[1,2-b]pyrazin-3(4H)-one
A mixture of 9H-indeno[1,2-b]pyrazine-3,9(4H)-dione (1.0 g, 5.0 mmol), pyridine (40 ml) and hydroxylamine hydrochloride (0.42 g, 6.0 mmol) was stirred at 80° C. for 18 hours. The reaction mixture was cooled to room temperature, and the precipitate was filtered off and washed with water, acetic acid and water and dried. The crude material (0.81 g) was recrystallized from DMF to afford 0.52 g (49%) of the title compound. M.p. >300° C. 1H-NMR (DMSO-d6, δ): 7.49-7.62 (m, 2H), 7.88 (d, 1H), 7.95 (s, 1H), 8.36 (d, 1H), 12.5-13.2 (broad, 1H), 12.83 (s, 1H).

reactant | 9H-indeno[1,2-b]pyrazine-3,9(4H)-dione | 5.0 mmol, 1.0 g | N=1C2=C(NC(C1)=O)C=1C=CC=CC1C2=O | C11H6N2O2
reactant | hydroxylamine hydrochloride | 6.0 mmol, 0.42 g | Cl.NO
solvent | pyridine | 40 ml | N1=CC=CC=C1 | C5H5N
product | 9-Hydroxyimino-9H-indeno[1,2-b]pyrazin-3(4H)-one | 0.52 g, 49% | ON=C1C=2C=CC=CC2C=2NC(C=NC21)=O | C11H7N3O2
